US04254260
To a solution of potassium hydroxide (4.2 g.) in water (100 ml.) was added ethyl 2-trifluoroacetamidothiazol-4-ylacetate (14.1 g.) at room temperature with stirring, and the mixture was stirred for 1 hour at room temperature. After the reaction, the reaction mixture was washed with ethyl acetate and adjusted to about pH 3 with 10% hydrochloric acid under ice-cooling and stirring. The precipitated solid was collected by filtration and dried over phosphorus pentoxide to give 2-trifluoroacetamidothiazol-4-ylacetic acid (8.5 g.), mp 117°-120° C.

reactant | potassium hydroxide | 4.2 g | [OH-].[K+]
reactant | ethyl 2-trifluoroacetamidothiazol-4-ylacetate | 14.1 g | FC(C(=O)NC=1SC=C(N1)CC(=O)OCC)(F)F | C9H9F3N2O3S
solvent | water | 100 ml | O | H2O
product | 2-trifluoroacetamidothiazol-4-ylacetic acid | 8.5 g | FC(C(=O)NC=1SC=C(N1)CC(=O)O)(F)F | C7H5F3N2O3S
